US09145407B2
tert-Butyl[(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate (Preparation 4, 60 mg, 0.15 mmol) was added to a mixture of 2-(2-aminopyridin-4-yl)-4-fluorophenol (Preparation 21, 30 mg, 0.1 mmol) and potassium carbonate (41 mg, 0.29 mmol) in dimethylsulfoxide (2 mL) and stirred at ambient temperature for 24 hours. The reaction mixture was poured into saturated aqueous ammonium chloride and water and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was taken up in dichloromethane, concentrated onto diatomaceous earth, and purified by automated silica gel flash chromatography (100% hexanes to 20% methanol in ethyl acetate, gradient elution) to afford tert-butyl({4-[2-(2-aminopyridin-4-yl)-4-fluorophenoxy]-5-chloro-2-fluorophenyl}sulfonyl)1,3-thiazol-4-ylcarbamate as a light brown oil, which was used without further purification.

reactant | tert-Butyl[(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | 0.15 mmol, 60 mg | C(C)(C)(C)OC(N(C=1N=CSC1)S(=O)(=O)C1=C(C=C(C(=C1)Cl)F)F)=O | C14H13ClF2N2O4S2
reactant | 2-(2-aminopyridin-4-yl)-4-fluorophenol | 0.1 mmol, 30 mg | NC1=NC=CC(=C1)C1=C(C=CC(=C1)F)O | C11H9FN2O
reactant | potassium carbonate | 0.29 mmol, 41 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | tert-butyl({4-[2-(2-aminopyridin-4-yl)-4-fluorophenoxy]-5-chloro-2-fluorophenyl}sulfonyl)1,3-thiazol-4-ylcarbamate | C(C)(C)(C)OC(N(C=1N=CSC1)S(=O)(=O)C1=C(C=C(C(=C1)Cl)OC1=C(C=C(C=C1)F)C1=CC(=NC=C1)N)F)=O | C25H21ClF2N4O5S2
